US06869966B2
A solution of N-{(1S)-2-[methoxy(methyl)amino]-1-methyl-2-oxoethyl}carbamate (9.6 g) in tetrahydrofuran (180 mL) was dropwise added at 0° C. to a solution of 1.48M 4-trifluoromethylphenylmagnesium bromide in tetrahydrofuran (70 mL) which had been prepared in another batch. The mixture was stirred at room temperature for 14 hours, and cooled down to 0° C. After addition of aqueous sodium hydrogen sulfate, the reaction mixture was extracted with ethyl acetate. The organic layer was washed successively with water and brine, dried over anhydrous sodium sulfate, and filtered to remove the sodium sulfate. Evaporation of the organic solvent in vacuo gave t-butyl N-[(1S)-2-(4-trifluoromethylphenyl)-1-methyl-2-oxoethyl]carbamate (13.4 g) as an orange solid.

reactant | N-{(1S)-2-[methoxy(methyl)amino]-1-methyl-2-oxoethyl}carbamate | 9.6 g | CON(C([C@H](C)NC([O-])=O)=O)C
reactant | 4-trifluoromethylphenylmagnesium bromide | 1.48M | FC(C1=CC=C(C=C1)[Mg]Br)(F)F
reactant | sodium hydrogen sulfate | S(=O)(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 180 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | t-butyl N-[(1S)-2-(4-trifluoromethylphenyl)-1-methyl-2-oxoethyl]carbamate | 13.4 g | FC(C1=CC=C(C=C1)C([C@H](C)NC(OC(C)(C)C)=O)=O)(F)F | C15H18F3NO3
